US07670504B2
(3-1) Synthesis of 4,4′-bis(methoxymethylidene)bicyclohexyl
882.3 g of methoxymethyltriphenylphosphonium chloride was dispersed in 2,600 mL of THF, followed by cooling to −10° C. 313.2 g of potassium-t-butoxide were added while maintaining the inner temperature. After stirring or one hours, a THF (800 mL) solution of 200.0 g of bicyclohexyl-4,4′-dione was and added dropwise. After stirring for 1 hour while maintaining the inner temperature, water was added thereby terminating the reaction. The solvent was distilled off under reduced pressure and hexane was added, followed by stirring and vigorous stirring and further filtration (twice). The filtrates were combined, washed in turn with an aqueous 50% methanol solution and saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain 231.8 g of a white solid.

reactant | methoxymethyltriphenylphosphonium chloride | 882.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 313.2 g | CC(C)([O-])C.[K+]
reactant | bicyclohexyl-4,4′-dione | 200.0 g | C1(CCC(CC1)=O)C1CCC(CC1)=O | C12H18O2
reactant | water | O | H2O
reactant | THF | 2,600 mL | C1CCOC1 | C4H8O
reactant | THF | 800 mL | C1CCOC1 | C4H8O
product | 4,4′-bis(methoxymethylidene)bicyclohexyl | 231.8 g | COC=C1CCC(CC1)C1CCC(CC1)=COC | C16H26O2
